US04861769
p-Nitrobenzyl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylate (syn isomer) (0.9 g) was hydrogenated under 1 atmospheric pressure of hydrogen in the presence of 10% palladium on carbon (0.9 g) in a mixture of methanol (20 ml), tetrahydrofuran (400 ml), and acetic acid (0.01 ml) at ambient temperature for 2 hours. The catalyst was filtered off and washed successively diluted aqueous solution of sodium bicarbonate and tetrahydrofuran. The filtrate and the washings were combined and washed with ethyl acetate. The aqueous solution was adjusted to pH 3 with 1N hydrochloric acid and extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was washed with saturated aqueous solution of sodium chloride, dried over magnesium sulfate, concentrated in vacuo, and triturated in diisopropyl ether to give 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylic acid (syn isomer) (0.35 g) as a solid.

reactant | p-Nitrobenzyl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylate | 0.9 g | C1(CC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)C=1N=C(SC1)NC=O | C24H22N6O9S2
reactant | hydrogen | [H][H] | H2
reactant | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
reactant | acetic acid | 0.01 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.9 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylic acid | 0.35 g | C1(CC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C17H17N5O7S2
